US06762320B2
N-(4-Benzyloxy-phenyl)-malonamide
Prepared in analogy to example 3 from N-(4-benzyloxy-phenyl)-malonamic acid methyl ester and ammonium hydroxide. Yield=85%. Colorless solid. MS: m/e=285.1 (M++H).

reactant | N-(4-benzyloxy-phenyl)-malonamic acid methyl ester | COC(CC(=O)NC1=CC=C(C=C1)OCC1=CC=CC=C1)=O | C17H17NO4
reactant | ammonium hydroxide | [OH-].[NH4+]
product | N-(4-Benzyloxy-phenyl)-malonamide | Yield=85% | C(C1=CC=CC=C1)OC1=CC=C(C=C1)NC(CC(=O)N)=O | C16H16N2O3
